US06492383B1
N-(4-Methoxy-phenyl )-N′-[6-(4-methoxy-phenyl )-thieno[3,2-d]pyrimid in-4-yl]-benzene-1,4-diamine
The title compound was prepared from 2-methoxybenzeneboronic acid and N-(6-bromo-thieno[3,2-d]pyrimidin-4-yl)-N′-(4-methoxy-phenyl)-benzene-1,4-diamine by a procedure analogous to example 2. M.P. 159-169° C.; LC-MS: 454.31 (MH+); HPLC RT: 7.003 minutes.

reactant | 2-methoxybenzeneboronic acid | COC1=C(C=CC=C1)B(O)O | C7H9BO3
reactant | N-(6-bromo-thieno[3,2-d]pyrimidin-4-yl)-N′-(4-methoxy-phenyl)-benzene-1,4-diamine | BrC1=CC=2N=CN=C(C2S1)NC1=CC=C(C=C1)NC1=CC=C(C=C1)OC | C19H15BrN4OS
product | N-(4-Methoxy-phenyl )-N′-[6-(4-methoxy-phenyl )-thieno[3,2-d]pyrimid in-4-yl]-benzene-1,4-diamine | COC1=CC=C(C=C1)NC1=CC=C(C=C1)NC=1C2=C(N=CN1)C=C(S2)C2=CC=C(C=C2)OC | C26H22N4O2S
